US08580957B2
A flask was charged with myristic acid (100 mg, 0.438 mmol), copper(II) acetate (29.2 mg, 0.161 mmol), phenylboronic acid (294 mg, 2.410 mmol), 2,6-lutidine (0.25 mL, 2.146 mmol), and (cis)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see intermediate 6) (455 mg, 1.607 mmol) then filled with toluene (20 mL) and the resulting mixture was stirred vigorously in air for 72 h then partitioned between AcOEt (50 mL) and a saturated NaHCO3 aqueous solution (50 mL). The layers were separated and the organic phase was washed with brine, dried over Na2SO4 and concentrated in vacuo. Purification of the residue by SP4 using a 40 G silica cartridge (gradient:0 to 100% AcOEt in Hexanes) gave (cis)-1-acetyl-6-bromo-2-methyl-N-phenyl-1,2,3,4-tetrahydro-4-quinolinamine (218 mg, 0.607 mmol, 38%) as a colourless oil.

reactant | myristic acid | 0.438 mmol, 100 mg | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | phenylboronic acid | 2.410 mmol, 294 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2,6-lutidine | 2.146 mmol, 0.25 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | (cis)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)N)C | C12H15BrN2O
catalyst | copper(II) acetate | 0.161 mmol, 29.2 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (cis)-1-acetyl-6-bromo-2-methyl-N-phenyl-1,2,3,4-tetrahydro-4-quinolinamine | 0.607 mmol, 218 mg, 38% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)NC1=CC=CC=C1)C | C18H19BrN2O
